datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([C:6](=[C:7]([H:19])[H:20])[H:18])[C:5]1([H:16])[H:17],26.3592
[C:3]([C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[S:0]([H:1])[H:2]>>[H:1].[S:0]([H:2])[C:3]([C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],133.051
[C:0]([H:1])([H:2])([H:3])[H:4].[c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15]>>[C:0]([H:2])([H:3])[H:4].[H:1][c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15],35.9824
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](#[C:7][C:8]([C:9]([H:12])([H:13])[H:14])[H:11])[H:10]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:8]([C:7]#[C:6][H:10])([C:9]([H:12])([H:13])[H:14])[H:11])[H:4],48.4507
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][H:32],18.706664
[O:0]([C:1](=[S:2])[H:4])[H:3]>>[O:0]=[C:1]([S:2][H:3])[H:4],119.16032
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:15]([C:14]([H:18])([H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:6],18.4933
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:11],53.0531
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[S:7]([H:8])[H:9]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:8])([H:4])[H:5].[S:7][H:9],35.1456
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25](=[C:26]([H:28])[H:29])[H:27]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25](=[C:26]([H:28])[H:29])[H:27])([H:11])([H:12])[H:13],11.2968
[C:3]([C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:0]([H:1])[H:2]>>[H:1].[O:0]([H:2])[C:3]([C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],226.202
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[H:10][H:11]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:11])([H:5])([H:6])[H:7].[H:10],150.289
[N:0]([N-:1][N+:2]([N:3]([H:8])[H:9])([H:6])[H:7])([H:4])[H:5]>>[N:0]([N:1]=[N:2][H:7])([H:4])[H:5].[N:3]([H:6])([H:8])[H:9],37.1
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]1([H:19])([H:20])[C:13]([H:21])([H:22])[C:14]2([H:23])[C:15]([H:24])([H:25])[C:16]([H:26])([H:27])[C:17]1([H:28])[C:18]2([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12]1([H:20])[C:13]([H:21])([H:22])[C:14]2([H:23])[C:15]([H:24])([H:25])[C:16]([H:26])([H:27])[C:17]1([H:28])[C:18]2([H:29])[H:30],72.425
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]#[C:12][H:15])[H:14])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9]#[C:8][H:13])([C:11]#[C:12][H:15])[H:14],96.232
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:21])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])[c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])([H:18])([H:19])[H:20],40.5848
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[O:8][O:9][H:10]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:10])([H:5])([H:6])[H:7].[O:8][O:9],-8.1588
[N:0](=[C:1]=[O:2])[H:3].[O:4]>>[H:3][O:4].[N:0]=[C:1]=[O:2],85.9519
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:12])([H:13])[H:14])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15],113.202
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:17]>>[C:0](=[C:1]=[C:2]([c:3]1[c:4][c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:12][H:17],69.533896
